///////// Differential Equation Modeling /////////
Gw (0 w) bsource i=i(E1)*uv*Ron/pow(D,2)*f(v(w),i(E1),p)
Cw (w 0) capacitor c=1
ic w=wInit
Raux (w 0) resistor r=1T

///////// Resistive Port of the Memristor /////////
E1 (Plus x) bsource v=-i(E1)*v(w)*(Roff-Ron)
Roff (x Minus) resistor r=Roff

//step function
real stepFunct(real a) {
	return max(0,sgn(a));
}

//Joglekar Window function 
//real f(real a) {
//	return 1-pow((2*x-1),(2*p));
//}

// Biolek Window Function 
real f(real x, real i, real p) {
	return	min(max(1-pow(x-stepFunct(-i),(2*p)), 0), 1);
}

//Prodomakis Window
//real f(real x, real i, real p) {
//	return 1-pow(pow(x-0.5,2) +0.75,p);
//}

ends memristor

