// State variables

GOFF (0 w) bsource i=f_off*sinh(stepFunct(v(Plus, Minus))*i(GI)/i_off)* exp(-exp(((v(w)-a_off)/w_c)-(i(GI)/b))-v(w)/w_c)
GON (w 0) bsource i=f_on*sinh(stepFunct(-v(Plus, Minus))*i(GI)/i_on)* exp(-exp((a_on-v(w))/w_c-(i(GI)/b))-v(w)/w_c)
Raux (w 0) resistor r=1T
Cw (w 0) capacitor c=1e-9
ic w=w_init
VXON (d1n 0) vsource dc=x_on type=dc
VXOFF (d2n 0) vsource dc=x_off type=dc
D1 (d1n w) pdiode l=3e-4 w=2.5e-4 area=1
D2 (w d2n) pdiode l=3e-4 w=2.5e-4 area=1
model pdiode diode is=1.8e-5 rs=1.43 n=1.22

//Rm (Plus Minus) bsource r=Ron*exp(lambda*(v(w)-x_on)/(x_off-x_on))
Em (memristance 0) bsource v=Ron*exp(lambda*(v(w)-x_on)/(x_off-x_on))
ic memristance=Ron*exp(lambda*(w_init-x_on)/(x_off-x_on))
Raux2 (memristance 0) resistor r=100k
GI (Plus Minus) bsource i=v(Plus, Minus)/v(memristance)

//step function
real stepFunct(real a) {
	return max(0,sgn(a));
}

ends memristor

