

////////////////////////////////////////////
/// State equations modeling
////////////////////////////////////////////

// Constants
+ lambda=log(Roff/Ron)

// State variables
EG (dx 0) bsource v=k_off*((i(Rm)/i_off-1)**alpha_off) * exp(-exp( (v(x)-a_off)/w_c ))*stp(i(Rm)-i_off) + k_on*((i(Rm)/i_on-1)**alpha_off) * exp(-exp( (a_on - v(x))/w_c ))*stp(i_on-i(Rm))

EX (x 0) bsource v=idt(v(dx), x_init)) max_val=x_off min_val=x_on

Rm (Plus Minus) bsource r=Ron*exp(lambda*(v(x)-x_on)/(x_off-x_on))

//step function
real stp(real a) {
	return max(0,sgn(a));
}

ends memristor

