*********************************************
**State equations modeling
*********************************************
EMemristance memristance 0 value={a*(idt(I(G1))**3)+b*(idt(I(G1))**2)+c*idt(I(G1))+d }
Raux2 memristance 0 100k

G1 Plus Minus value={V(Plus, Minus)/V(memristance)}
.ENDS memristor

