*********************************************
**State equations modeling
*********************************************
Ew w 0 value={idt(f_off*sinh(stp(V(Plus, Minus))*I(G1)/i_off)* exp(-exp(((V(w)-a_off)/w_c)-(I(G1)/b))-V(w)/w_c) - f_on*sinh(stp(-V(Plus, Minus))*I(G1)/i_on)* exp(-exp((a_on-V(w))/w_c-(I(G1)/b))-V(w)/w_c), w_init)}
*Goff 0 w value={f_off*sinh(stp(V(Plus, Minus))*I(G1)/i_off)* exp(-exp(((V(w)-a_off)/w_c)-(I(G1)/b))-V(w)/w_c)}
*Gon w 0 value={f_on*sinh(stp(-V(Plus, Minus))*I(G1)/i_on)* exp(-exp((a_on-V(w))/w_c-(I(G1)/b))-V(w)/w_c)}
*Raux w 0 1k
*C1 w 0 1e-9 IC={w_init}
*D1 d1n w D
*D2 w d2n D
*VXON d1n 0 {x_on}
*VXOFF d2n 0 {x_off}

EMemristance memristance 0 value={Ron*exp(lambda*(V(w)-x_on)/(x_off-x_on))}
Raux2 memristance 0 100k

G1 Plus Minus value={V(Plus, Minus)/V(memristance)}
.ENDS memristor
