**************************************************
** Linear charge controlled memristor circuit   **
** Ports: Plus, Minus                      	**
**************************************************

.SUBCKT memristor Plus Minus PARAMS:
+a=10 b=0 c=1000 d=1

EMemristance memristance 0 value={a*(idt(I(G1))**3)+b*(idt(I(G1))**2)+c*idt(I(G1))+d }
Raux2 memristance 0 100k

G1 Plus Minus value={V(Plus, Minus)/V(memristance)}
.ENDS memristor

