// State variable
GOFF (0 x) bsource i=k_off*pow(i(GI)/i_off-1, alpha_off) * exp(-exp( (v(x)-a_off)/w_c ))*stepFunct(i(GI)-i_off)
GON (0 x) bsource i=k_on*pow(i(GI)/i_on-1, alpha_off) * exp(-exp( (a_on - v(x))/w_c ))*stepFunct(i_on-i(GI))
//GOFF (0 x) bsource i=k_off*pow(i(Rm)/i_off-1, alpha_off) * exp(-exp( (v(x)-a_off)/w_c ))*stepFunct(i(Rm)-i_off)
//GON (0 x) bsource i=k_on*pow(i(Rm)/i_on-1, alpha_off) * exp(-exp( (a_on - v(x))/w_c ))*stepFunct(i_on-i(Rm))
Cw (x 0) capacitor c=1
ic x=x_init
VXON (d1n 0) vsource dc=x_on type=dc
VXOFF (d2n 0) vsource dc=x_off type=dc
D1 (d1n x) pdiode l=3e-4 w=2.5e-4 area=1
D2 (x d2n) pdiode l=3e-4 w=2.5e-4 area=1
model pdiode diode is=1.8e-5 rs=1.43 n=1.22
Raux (x 0) resistor r=1T

//Rm (Plus Minus) bsource r=Ron*exp(lambda*(v(x)-x_on)/(x_off-x_on))
Em (memristance 0) bsource v=Ron*exp(lambda*(v(x)-x_on)/(x_off-x_on))
Raux2 (memristance 0) resistor r=100k
GI (Plus Minus) bsource i=v(Plus, Minus)/v(memristance)

//step function
real stepFunct(real a) {
	return max(0,sgn(a));
}

ends memristor

