
// Constants
+p2=p*2

//////// Differential Equation Modeling ////////

Ew (w 0) bsource v=idt(i(E1)*uv*Ron/pow(D,2) *f(v(w),i(E1),p), wInit)

////////// Resistive Port of the Memristor ////////
//Rm (Plus Minus) bsource r=Ron*v(w)+Roff*(1-v(w))
Gm (Plus Minus) bsource i=v(Plus, Minus)/(Ron*v(w)+Roff*(1-v(w)))

//////////* Computation of the Flux ////////////*
//Eflux flux 0 value={SDT(V(plus,minus))}

//////////* Computation of the Charge //////////*
//Echarge charge 0 value={SDT(I(Emem))}


//Joglekar Window function 
//real f(real a) {
//	return 1-pow((2*x-1),p2);
//}

// Biolek Window Function 
real f(real x, real i, real p) {
	return	min(max(1-pow(x-stepFunct(-i),p2), 0), 1);
}

//Prodomakis Window
//real f(real x, real i, real p) {
//	return 1-pow(pow(x-0.5,2) +0.75,p);
//}

ends memristor

