
/////////////////////////////////////////////
// State equation modeling
/////////////////////////////////////////////

// Constants
+ lambda=log(Roff/Ron)

//State variable
Ew (w 0) bsource v=idt(f_off*sinh(stp(v(Plus, Minus))*i(G1)/i_off)* exp(-exp(((v(w)-a_off)/w_c)-(i(G1)/b))-v(w)/w_c) - f_on*sinh(stp(-v(Plus, Minus))*i(G1)/i_on)* exp(-exp((a_on-v(w))/w_c-(i(G1)/b))-v(w)/w_c), w_init)

EMemristance (memristance 0) bsource v=Ron*exp(lambda*(v(w)-x_on)/(x_off-x_on))

G1 (Plus Minus) bsource i=v(Plus, Minus)/v(memristance)


//step function
real stp(real a) {
	return max(0,sgn(a));
}

ends memristor


