
////////////////////////////////////////////
/// State equations modeling
////////////////////////////////////////////

// Constants
+ Xp_1=(1-Xp) Xn_1=(1-Xn)

// State variables

Edx (dx 0) bsource v=stp(v(Plus, Minus) - Vp)*Ap*(exp(v(Plus, Minus))-exp(Vp))*winYakopcicPositive(v(x)) -stp(-v(Plus, Minus)-Vn)*An*(exp(-v(Plus, Minus))-exp(Vn))*winYakopcicNegative(v(x))

EX (x 0) bsource v=idt(v(dx), x_init)  max_val=1 min_val=0
GI (Plus Minus) bsource i=a1*v(x)*sinh(b*(v(Plus, Minus)))*stp(v(Plus, Minus)) + a2*v(x)*sinh(b*(v(Plus, Minus)))*stp(-v(Plus, Minus))

// winYakopcicON
real winYakopcicPositive(real x) {
	return   exp(-alphaP*(x - Xp))* ((Xp-x)/Xp_1 +1) *stp(x-Xp) + stp(Xp-x);
}
// winYakopcicOFF
real  winYakopcicNegative(real x) {
	return exp(alphaN*(x + Xn + 1))* (x/Xn_1) *stp(Xn_1-x) + stp(x-1+Xn) ;
}
// step function
real stp(real a) {
	return max(0,sgn(a));
}

ends memristor




